US08211919B2
To a solution of 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide (50 mg) in N,N-dimethylformamide (1.0 mL) were added triethylamine (0.092 mL) and acetyl chloride (0.0352 mL) at ambient temperature and the mixture was stirred at ambient temperature overnight. Water (3 mL) was added to the mixture and the resulting mixture was extracted with ethyl acetate (5 mL). The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (10% methanol in chloroform) to afford 2-[acetyl(phenyl)amino]-N-[4-(4-pyridinyl)phenyl]acetamide (46.9 mg) as a white amorphous.

reactant | 2-anilino-N-[4-(4-pyridinyl)phenyl]acetamide | 50 mg | N(C1=CC=CC=C1)CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C19H17N3O
reactant | triethylamine | 0.092 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.0352 mL | C(C)(=O)Cl | C2H3ClO
reactant | Water | 3 mL | O | H2O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 2-[acetyl(phenyl)amino]-N-[4-(4-pyridinyl)phenyl]acetamide | 46.9 mg | C(C)(=O)N(CC(=O)NC1=CC=C(C=C1)C1=CC=NC=C1)C1=CC=CC=C1 | C21H19N3O2
